US08133995B2
Step 2: Preparation of methyl 5-cyano-1H-pyrrole-3-carboxylate
Sodium methoxide (17.8 g, 329 mmol) was added to a solution of 4-(trichloroacetyl)-1H-pyrrole-2-carbonitrile (39.0 g, 164 mmol) in methanol (350 mL). The reaction was stirred for 16 h and then the methanol was evaporated under reduced pressure. The residue was dissolved in ethyl acetate (800 mL) and the solution was adjusted to pH 6 using 1 M hydrochloric acid. The layers were separated and then the organic layer was washed with water and brine, dried (magnesium sulfate) and evaporated under reduced pressure to afford the expected product (24.2 g, 98%). 1H NMR (DMSO-d6) δ 7.76 (s, 1H), 7.28 (s, 1H), 3.72 (s, 3H).

reactant | Sodium methoxide | 329 mmol, 17.8 g | C[O-].[Na+]
reactant | 4-(trichloroacetyl)-1H-pyrrole-2-carbonitrile | 164 mmol, 39.0 g | ClC(C(=O)C=1C=C(NC1)C#N)(Cl)Cl | C7H3Cl3N2O
reactant | methanol | 350 mL | CO | CH4O
product | methyl 5-cyano-1H-pyrrole-3-carboxylate | 24.2 g, 98% | C(#N)C1=CC(=CN1)C(=O)OC | C7H6N2O2
